US04749379
EXAMPLE 4 Preparation of 2-n-butylamino-4,5-methylenedioxy-1-nitrobenzene
0.05 mol (10.6 g) of 4,5-methylenedioxy-1,2-dinitrobenzene is added to 40 ml n-butylamine. The reaction is exothermic. The boiling point of butylamine is reached. As soon as the exothermic effect has finished, 200 g of ice are added to the reaction medium. After neutralization of the excess butylamine with concentrated hydrochloric acid, the expected product crystallizes. After recrystallization from 96° strength ethanol or from ethyl acetate, it melts at 137° C. (literature 137° C.).

reactant | 4,5-methylenedioxy-1,2-dinitrobenzene | 0.05 mol, 10.6 g | C1OC2=CC(=C(C=C2O1)[N+](=O)[O-])[N+](=O)[O-] | C7H4N2O6
solvent | n-butylamine | 40 ml | C(CCC)N | C4H11N
product | 2-n-butylamino-4,5-methylenedioxy-1-nitrobenzene | C(CCC)NC1=C(C=C2C(=C1)OCO2)[N+](=O)[O-] | C11H14N2O4
